US08350029B2
Methanol (350 ml), isovanillin (50 gm) and 30% methanolic sodium hydroxide solution (1 ml), were heated to 45° C. To this solution, 35% hydrogen peroxide solution (107 ml) was charged slowly maintaining pH at 10.5 to 11.5 using methanolic sodium hydroxide solution over a period of 2-3 hours. The reaction mass was quenched into chilled water (1 lt) and the pH adjusted to 2-3 using hydrochloric acid. The solids were filtered, washed with 50% aqueous methanol (50 ml) and dried at 45-50° C. to yield 3-hydroxy-4-methoxy benzoic acid.

reactant | isovanillin | 50 gm | O=CC1=CC(O)=C(OC)C=C1 | C8H8O3
reactant | sodium hydroxide | 1 ml | [OH-].[Na+]
reactant | hydrogen peroxide | 107 ml | OO | H2O2
solvent | Methanol | 350 ml | CO | CH4O
product | 3-hydroxy-4-methoxy benzoic acid | OC=1C=C(C(=O)O)C=CC1OC | C8H8O4
